US09326987B2
N-(2-Chloro-5-{1-[(4-methylphenyl)sulfonyl]-4-[5-(4-morpholinylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazol-6-yl}-3-pyridinyl)methanesulfonamide
N-(2-Chloro-5-{4-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]-1-[(4-methylphenyl)sulfonyl]-1H-indazol-6-yl}-3-pyridinyl)methanesulfonamide (50 mg, 0.084 mmol) and morpholine (0.015 ml, 0.169 mmol) were placed in acetonitrile (5 ml) and the mixture heated at 80° C. for 4 h. Further morpholine (15 μl) was added and the reaction was continued to heat overnight. The mixture was cooled to room temperature and the mixture loaded onto an SCX (5 g) cartridge. The cartridge was washed with methanol and then eluted with 2M ammonia in methanol. The mixture was purified by chromatography on silica (20 g) cartridge eluting with 0-100% ethyl acetate in cyclohexane followed by 0-20% methanol to give the title compound (52 mg).

reactant | N-(2-Chloro-5-{4-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]-1-[(4-methylphenyl)sulfonyl]-1H-indazol-6-yl}-3-pyridinyl)methanesulfonamide | 0.084 mmol, 50 mg | ClC1=NC=C(C=C1NS(=O)(=O)C)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C=1OC(=NN1)CCl | C23H18Cl2N6O5S2
reactant | morpholine | 0.169 mmol, 0.015 ml | N1CCOCC1 | C4H9NO
reactant | morpholine | 15 μl | N1CCOCC1 | C4H9NO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | N-(2-Chloro-5-{1-[(4-methylphenyl)sulfonyl]-4-[5-(4-morpholinylmethyl)-1,3,4-oxadiazol-2-yl]-1H-indazol-6-yl}-3-pyridinyl)methanesulfonamide | 52 mg | ClC1=NC=C(C=C1NS(=O)(=O)C)C1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=C(C=C1)C)C=1OC(=NN1)CN1CCOCC1 | C27H26ClN7O6S2
